US07348318B2
Synthesis of (3S)-3-benzyloxycarbonylamino-1-bis(phenylamino)phosphinyl-2-piperidone
A solution of (3S)-3-benzyloxycarbonylamino-2-piperidone (2.48 g, 9.99 mmol) in tetrahydrofuran (30 mL) was cooled at an external temperature of −78° C., followed by adding dropwise thereto an n-butyllithium-hexane solution (1.50 M, 6.5 mL, 9.75 mmol) over a period of 20 minutes, and the resulting mixture was stirred at the same temperature for 30 minutes. Subsequently, a solution of phosphorus oxychloride (1.53 g, 9.98 mmol) in tetrahydrofuran (3 mL) was added thereto and stirred for 20 minutes, after which aniline (d=1.022, 4.1 mL, 44.99 mmol) was added thereto and stirred for 1.5 hours.

reactant | (3S)-3-benzyloxycarbonylamino-2-piperidone | 9.99 mmol, 2.48 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(NCCC1)=O | C13H16N2O3
reactant | phosphorus oxychloride | 9.98 mmol, 1.53 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | aniline | 44.99 mmol, 4.1 mL | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (3S)-3-benzyloxycarbonylamino-1-bis(phenylamino)phosphinyl-2-piperidone | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)P(=O)(NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C25H27N4O4P
